* C:\PRACA\Omni-chip\PMU\LDO_new\Ldo_topology_sim.asc
vdd2 V+ 0 0.456
MP1 vdd VOUT LDO_Out vdd P_50n L={Lpass} w={Wpass}
vdd1 vdd 0 SINE(1 0.2 40k 50us 0 0 5)
R3 vdd 0 100k
R4 LDO_Out 0 1Meg
C1 LDO_Out 0 100p
MP2 vdd VOUT LDO_Out vdd P_50n L={Lpass} w={Wpass}
MP3 vdd NC_01 LDO_Out vdd P_50n L={Lpass} w={Wpass}
MP4 vdd VOUT LDO_Out vdd P_50n L={Lpass} w={Wpass}
R1 LDO_Out FB 1k
R2 FB 0 150k
MP5 vdd VOUT LDO_Out vdd P_50n L={Lpass} w={Wpass}
M1 N001 V+ N004 0 N_50n L={l1} w={w1}
M2 vdd N002 VOUT vdd P_50n L={l2} w={w2}
R5 vdd N003 24k
M3 vdd N001 N001 vdd P_50n L={l3} w={w3}
M4 vdd N001 N002 vdd P_50n L={l4} w={w4}
M5 N002 FB N004 0 N_50n L={l5} w={w5}
M6 VOUT N003 0 0 N_50n l={l6} w={w6}
M7 N003 N003 0 0 N_50n L={l7} w={w7}
M8 N004 N003 0 0 N_50n L={l8} w={w8}
C2 VOUT N002 {Cm}
I1 LDO_Out 0 PWL(10us 10uA 20us 10mA 50us 50mA 100us 100mA 150us 200mA 190us 350mA)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\piomi\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 200u 0 1n
.include cmosedu_models.txt
.options temp 26.85
;.step temp -40 125 100
;step param RX 1.5 100 25
;param Wpass=12000u Lpass=2u
.backanno
.end
